US08614328B2
A solution of 3-(3-methoxy-benzyloxy)-phthalic acid dimethyl ester (2.0 g crude, 5.5 mmol) in reagent alcohol (100 mL) and 3 N sodium hydroxide (35 mL) was refluxed for two hours. The solution was evaporated and the residue was dissolved in water (80 mL) and washed with methylene chloride (3×70 mL) then acidified to pH around 4. The resulting mixture was extracted with ethyl acetate (2×60 mL) and the combined organic layers was washed with water (2×70 mL), dried and concentrated to give 3-(3-methoxy-benzyloxy)-phthalic acid as an off-white solid (1.6 g, 98% crude yield). The product was used in the next step without further purification.

reactant | 3-(3-methoxy-benzyloxy)-phthalic acid dimethyl ester | 5.5 mmol, 2.0 g | COC(C=1C(C(=O)OC)=C(C=CC1)OCC1=CC(=CC=C1)OC)=O | C18H18O6
reactant | sodium hydroxide | 3 N, 35 mL | [OH-].[Na+]
product | 3-(3-methoxy-benzyloxy)-phthalic acid | COC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C16H14O6
